US07851493B2
To a mixture of 150 mg of 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one in 6 mL of acetonitrile were added 0.100 mL of pyridine and 0.200 mL of methanesulfonic anhydride. The resulting mixture was stirred at room temperature for 5 hour then 0.250 mL of hexamethyleneimine was added. The mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The residue was purified by preparative HPLC on normal phase coupled to MS (gradient of methanol 5 in dichloromethane containing NH4OH), then precipitated from dichloromethane/pentane to give 26 mg of 3-{2-methoxy-4-[4-(3-perhydro-azepin-1-yl-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one as a white solid.

reactant | 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 150 mg | OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O5S
reactant | pyridine | 0.100 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 0.200 mL | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 3-{2-methoxy-4-[4-(3-perhydro-azepin-1-yl-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one | 26 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCN1CCCCCC1)C1=NOC(N1)=O | C29H31F3N4O4S
